* SCT3022AL_T
* SiC NMOSFET Self-heating Thermal model
* 650V 93A 22mOhm
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2017/03/03
********************D G S Tj Tc Ta
.SUBCKT SCT3022AL_T 1 2 3 Tj Tc Ta
.PARAM T0=25 T1=-100 T2=600
.FUNC K1(T)     {MIN(MAX(T,T1),T2)}
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
.FUNC R1(I,T)   {15.89m*I*EXP((T-T0)/255.5)+1.274u*I*ABS(I)**1.575*EXP((T-T0)/-2495)}
.FUNC R2(I)     {I*(1.0*(1+TANH(I))/2+6.6*(1-TANH(I))/2)}
.FUNC V1(V,W,T) {V-738.2m*ASINH(W/5.716)*EXP((T-T0)/-1443)-
+                204.0m*ASINH(W/0.1115)*EXP((T-T0)/-312.9)-13.55m*W*EXP((T-T0)/378.6)}
.FUNC V2(V,T)   {421.3f*V**(16.59*EXP((T-T0)/-5120))*EXP((T-T0)/26.92*EXP((T-T0)/-1531))}
.FUNC V3(V,T)   {225.3*SINH(V/225.3)*EXP((T-T0)/12585)}
.FUNC I1(V,W,T) {V3(V,T)*(1+2.078*(TANH((V3(V,T)-40.08)/78.25)+1)*EXP((T-T0)/-155.8*EXP((T-T0)/-326.5))/10)*
+                W/(ABS(W)+2.078*(TANH((V3(V,T)-40.08)/78.25)+1)*EXP((T-T0)/-155.8*EXP((T-T0)/-326.5)))}
.FUNC C1(U,V,W) {(1028*V+1971*(1-W/0.8431)**-0.4397)*(0.2108*TANH((U+7.666)/3.268)+0.7892)}
V1  1 11 0
E1 11 12 VALUE={R1(MIN(MAX(I(V1),-5k),5k),K1(V(Tj)))}
V2  2 21 0
E2 21 22 VALUE={R2(I(V2))}
L1  3 32 4.5n
R2  3 32 10
E3 41  0 VALUE={V1(MIN(MAX(V(22,32),0),22),MIN(MAX(V(42),0),1.2k),K1(V(Tj)))}
E4 42  0 VALUE={V2(MIN(MAX(V(41),0),20),K1(V(Tj)))}
G1 12 32 VALUE={I1(MIN(MAX(V(42),0),1.2k),V(12,32),K1(V(Tj)))}
R3 12 32 1T
V3 22 23 0
C1 23 12 1p
G2 22 12 VALUE={I(V3)*C1(V(22,12),MIN(MAX(V(22,12),0),0.593),MIN(V(22,12),0))}
C2 22 32 2.183n
R4 22  3 1G
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
.FUNC R11(I,T) {79.18m*ASINH(I/0.5202)*EXP((T-T0)/217.9)+22.43m*I*EXP((T-T0)/599.6)}
.FUNC I11(V,T) {30.71n*(EXP(V/0.09265/EXP((T-T0)/-302.0))-1)*EXP((T-T0)/-65.69*EXP((T-T0)/-842.5))-
+               1u*TANH(-V/0.1)*EXP((T-T0)/180.3)-231.9E-21*(EXP(-V/25)-1)*EXP((T-T0)/-200)}
.FUNC C11(V,W) {1650*(V-0.8682)+1966*(1-W/1.736)**-0.5112}
V11 32 51 0
E11 51 52 VALUE={R11(MIN(MAX(I(V11),-400k),600k),K1(V(Tj)))}
V12 52 53 0
C11 53  1 1p
G11 52  1 VALUE={I11(MIN(MAX(V(52,1),-2k),5),K1(V(Tj)))+I(V12)*C11(MAX(V(52,1),0.8682),MIN(V(52,1),0.8682))}
R11 52  1 1T
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
G21 Ta Tj VALUE={MIN(MAX(IF(TIME>0,(I(V1)-I(V11))*V(1,3)+I(V2)*V(2,3),0),-1MEG),1MEG)}
C21 Tj Ta 1.403m
C22 T2 Ta 11.30m
C23 T3 Ta 60.17m
R21 Tj T2 4.825m
R22 T2 T3 172.5m
R23 T3 Tc 163.2m
.ENDS SCT3022AL_T